US04886805
4.8 g of 3-[2-(piperazin-1-yl)ethylmercapto]1,2,4-triazolo(4,3-a)pyridine, prepared in Example 79, and 2.1 g of 2-chloropyrimidine are heated under reflux in 140 ml of isopropanol in the presence of 2.5 g of potassium carbonate. After heating for 2 hours, the medium is cooled, the mineral substances are filtered off and the filtrate is concentrated. The oily residue is filtered on silica gel (eluent: chloroform/methanol 90/10). The resulting residue crystallizes from an ethyl ether/isopropyl ether mixture to give 2.8 g of 3-[2-(4-(pyrimidin-2-yl)piperazin-1-yl)ethylmercapto]1,2,4-triazolo(4,3-a)pyridine in the form of crystals melting at 126°-7° C.

reactant | 3-[2-(piperazin-1-yl)ethylmercapto]1,2,4-triazolo(4,3-a)pyridine | 4.8 g | N1(CCNCC1)CCSC1=NN=C2N1C=CC=C2 | C12H17N5S
reactant | 2-chloropyrimidine | 2.1 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 140 ml | C(C)(C)O | C3H8O
product | 3-[2-(4-(pyrimidin-2-yl)piperazin-1-yl)ethylmercapto]1,2,4-triazolo(4,3-a)pyridine | 2.8 g | N1=C(N=CC=C1)N1CCN(CC1)CCSC1=NN=C2N1C=CC=C2 | C16H19N7S
